US07759337B2
Synthesis of 4-methyl-3-(1-morpholinophthalazin-6-yl)benzoic acid
6-Bromo-1-morpholinophthalazine (191 mg, 649 μmol), 4-methyl-3-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)benzoic acid (170 mg, 649 μmol), and tetrakis (triphenylphosphine)palladium (75 mg, 65 μmol) were added to a microwave vial before sodium carbonate-2 N in water (1.9 mL, 3892 μmol) and ethanol (3.2 mL) were added. The reaction mixture was reacted in a microwave oven for 10 min at 160° C. The reaction was cooled, diluted with 50 mL of EtOAc, added to an addition funnel and partitioned with sodium bicarbonate (saturated, aqueous). The organic layer was washed 2 times with 50 mL of sodium bicarbonate (saturated, aqueous), and separated. The aqueous layer was acidified to pH 5 with conc. HCl and extracted 4 times with 50 mL of chloroform. The organic layers were combined, dried over sodium sulfate, and concentrated via rotovap to give the title compound. Found MS (ES+): 350 (M+H)+.

reactant | 6-Bromo-1-morpholinophthalazine | 649 μmol, 191 mg | BrC=1C=C2C=NN=C(C2=CC1)N1CCOCC1 | C12H12BrN3O
reactant | 4-methyl-3-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)benzoic acid | 649 μmol, 170 mg | CC1=C(C=C(C(=O)O)C=C1)B1OC(C(O1)(C)C)(C)C | C14H19BO4
reactant | sodium carbonate | 2 N | C([O-])([O-])=O.[Na+].[Na+]
reactant | water | 3892 μmol, 1.9 mL | O | H2O
solvent | ethanol | 3.2 mL | C(C)O | C2H6O
solvent | EtOAc | 50 mL | CCOC(=O)C | C4H8O2
product | 4-methyl-3-(1-morpholinophthalazin-6-yl)benzoic acid | CC1=C(C=C(C(=O)O)C=C1)C=1C=C2C=NN=C(C2=CC1)N1CCOCC1 | C20H19N3O3
